US04360519
2-Ethyl-2-(3-hydroxyphenyl)-4,6,6-trimethylmorpholine
2-Ethyl-2-(3-methoxyphenyl)-4,6,6-trimethylmorpholine hydrochloride (1 g) was heated under N2 and under reflux with stirring with a solution of diisobutyl aluminium hydride (15 ml of a 25% w/w solution in toluene) for 24 h. The reaction mixture was cooled, and decomposed by the cautious addition of a saturated solution of potassium sodium tartrate. The toluene layer was separated and the aqueous phase reextracted with toluene. After the combined organic extracts were washed with saturated sodium chloride solution they were dried (MgSO4) and evaporated to an oil which gave 742 mg of crystalline title compound hydrochloride salt mp 185°-188° C. from isopropyl alcohol and a solution of hydrogen chloride in dry ether.

reactant | 2-Ethyl-2-(3-methoxyphenyl)-4,6,6-trimethylmorpholine hydrochloride | 1 g | Cl.C(C)C1(CN(CC(O1)(C)C)C)C1=CC(=CC=C1)OC
reactant | diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Ethyl-2-(3-hydroxyphenyl)-4,6,6-trimethylmorpholine | 742 mg | C(C)C1(CN(CC(O1)(C)C)C)C1=CC(=CC=C1)O | C15H23NO2
